US07192950B2
8-Benzyloxy-1-(3,4-dimethoxy-benzyl)-7-methoxy-2,3,4,5-tetrahydro-1H benzo[c]azepine
A mixture of N-[3-(4-benzyloxy-3-methoxy-phenyl)-propyl]-2-(3,4-dimethoxy-phenyl)-acetamide (6.04 g, 13.43 mmol) and POCl3 (4.1 ml, 44.78 mmol) in anhydrous acetonitrile (350 ml) was stirred at reflux for 5 h under nitrogen. After cooling, the reaction mixture was concentrated in vacuo and the residue was dissolved in MeOH (120 ml). The solution was cooled to 0° C. and NaBH4 (3.50 g, 92.70 mmol) was added portionwise. After stirring at 0° C. for 2 h under nitrogen, the reaction mixture was poured into H2O and extracted three times with CH2Cl2. The combined organic extracts were washed with brine, dried over anhydrous MgSO4, filtered and concentrated to give a crude oil. Flash chromatography (CH2Cl2/MeOH: 9/1) gave the title compound as a racemic mixture (2.44 g, 5.62 mmol, 42%, yellow oil).

reactant | N-[3-(4-benzyloxy-3-methoxy-phenyl)-propyl]-2-(3,4-dimethoxy-phenyl)-acetamide | 13.43 mmol, 6.04 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCCNC(CC1=CC(=C(C=C1)OC)OC)=O)OC | C27H31NO5
reactant | POCl3 | 44.78 mmol, 4.1 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaBH4 | 92.70 mmol, 3.50 g | [BH4-].[Na+]
reactant | H2O | O | H2O
solvent | acetonitrile | 350 ml | C(C)#N | C2H3N
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 8-Benzyloxy-1-(3,4-dimethoxy-benzyl)-7-methoxy-2,3,4,5-tetrahydro-1H benzo[c]azepine | C(C1=CC=CC=C1)OC=1C(=CC2=C(C(NCCC2)CC2=CC(=C(C=C2)OC)OC)C1)OC | C27H31NO4
